US05112968
4-(Aminocarbonyl)-1-[[6-[[2-[(1,1-dimethylethyloxy)carbonyl]hydrazino]carbonyl]-3,4-bis (phenylmethoxy)-2-pyridinyl]methyl]pyridinium chloride
4.98 g 6-(chloromethyl)-4,5-bis(phenylmethoxy)2-pyridinecarboxylic acid, 2-[(1,1-dimethylethoxy)carbonyl]hydrazide and 1.23 g of isonicotine acid hydrazide and 0.1 g KI and 0.1 g C-18-Crown-6 were stirred for 12 hours at 50° C. in 50 ml dimethylformamide. After filtration the dimethylformamide was distilled off in vacuo and the residue stirred with ether. A yellow solid was obtained, 6.20 g of title compound. M.P. 205°-208° C. (dec.)

reactant | 6-(chloromethyl)-4,5-bis(phenylmethoxy)2-pyridinecarboxylic acid, 2-[(1,1-dimethylethoxy)carbonyl]hydrazide | 4.98 g | CC(C)(OC(=O)NNC(=O)C1=NC(=C(C(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)CCl)C | C26H28ClN3O5
reactant | isonicotine | 1.23 g | CN1CCC(C1)C2=CN=CC=C2 | C10H14N2
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(Aminocarbonyl)-1-[[6-[[2-[(1,1-dimethylethyloxy)carbonyl]hydrazino]carbonyl]-3,4-bis (phenylmethoxy)-2-pyridinyl]methyl]pyridinium chloride | 6.20 g | [Cl-].NC(=O)C1=CC=[N+](C=C1)CC1=NC(=CC(=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C(=O)NNC(=O)OC(C)(C)C | InChI=1S/C32H33N5O6.ClH/c1-32(2,3)43-31(40)36-35-30(39)25-18-27(41-20-22-10-6-4-7-11-22)28(42-21-23-12-8-5-9-13-23)26(34-25)19-37-16-14-24(15-17-37)29(33)38;/h4-18,38H,19-21,33H2,1-3H3;1H
